US07723527B2
{2-(5-Fluoro-4-methyl-1H-benzoimidazol-2-yl)-5-[3-(1-methyl-piperidin-4-yl)-propoxy]-phenyl}-methanol
4-[3-(4-Bromo-3-[1,3]dioxan-2-yl-phenoxy)-propyl]-1-methyl-piperidine. To a solution of 3-(1-methyl-piperidin-4-yl)-propan-1-ol (7.07 g, 45 mmol, 1.0 equiv) and methanesulfonyl chloride (4.18 mL, 54 mmol, 1.2 equiv) in dichloromethane (100 mL) at 0° C. was added triethylamine (9.41 mL, 68 mmol, 1.5 equiv). The reaction mixture, which was allowed to warm to rt, was stirred for 30 min and then poured into satd. aq. NaHCO3. The aqueous mixture was extracted with chloroform and then ethyl acetate. The combined extracts were dried (Na2SO4), filtered, and concentrated. The residue was dissolved in acetonitrile (100 mL) and 4-bromo-3-[1,3]dioxan-2-yl-phenol (11.7 g, 45 mmol, 1.0 equiv) and cesium carbonate (29.2 mg, 90 mmol, 2.0 equiv) were added. The mixture was stirred at rt for 12 h, then warmed to 50° C. for 1.0 h. The mixture was poured into satd. aq. NaHCO3 and extracted with ethyl acetate (2×) and chloroform. The combined extracts were dried (Na2SO4), filtered, and concentrated. Purification by Method 2 afforded 4.82 g (27%) of the title compound. 1H NMR (400 MHz, CD3OD): 7.43 (d, J=8.8 Hz, 1H), 7.19 (d, J=3.1 Hz, 1H), 6.83 (dd, J=8.8, 3.1 Hz, 1H), 5.72 (s, 1H), 4.27-4.19 (m, 2H), 4.10-4.00 (m, 2H), 3.97 (t, J=6.4 Hz, 2H), 2.93-2.85 (m, 2H), 2.28 (s, 3H), 2.25-2.11 (m, 1H), 2.07-1.97 (m, 2H), 1.85-1.72 (m, 4H), 1.52-1.21 (m, 6H). B. 2-{2-[1,3]Dioxan-2-yl-4-[3-(1-methyl-piperidin-4-yl)-propoxy]-phenyl}-5-fluoro-4-methyl-1H-benzoimidazole. To a stirred solution of 4-[3-(4-bromo-3-[1,3]dioxan-2-yl-phenoxy)-propyl]-1-methyl-piperidine (4.82 g, 12.4 mmol, 1.0 equiv) in THF (62 mL) at −78° C. was added 2.5 M n-butyllithium in hexanes (22 mL, 55 mmol, 4.4 equiv). The resulting orange solution was stirred for 30 min then DMF (9.6 mL, 124 mmol, 10.0 equiv) was added. The solution was warmed to rt and stirred for 1.0 h then re-cooled to −78° C. and satd. aq. NaHCO3 was added. The mixture was warmed to rt, poured into water, and extracted with ethyl acetate. The combined extracts were dried (Na2SO4), filtered, and concentrated. The crude residue was partially purified by Method 2. The resultant 2-[1,3]dioxan-2-yl-4-[3-(1-methyl-piperidin-4-yl)-propoxy]-benzaldehyde (491 mg, 1.41 mmol, 1.0 equiv) was stirred with 4-fluoro-3-methyl-benzene-1,2-diamine (198 mg, 1.41 mmol, 1.0 equiv) and Na2S2O5 (350 mg, 1.84 mmol, 1.3 equiv) in DMF (7.0 mL) at 90° C. for 2 h. The mixture was loaded onto silica gel and purified by Method 2 to afford 509 mg (77%) of the title compound. MS (electrospray): mass calculated for C27H34FN3O3, 467.26; m/z found, 468.4 [M+H]+. 1H NMR (400 MHz, CD3OD): 7.62 (d, J=8.5 Hz, 1H), 7.44-7.37 (m, 1H), 7.35 (d, J=2.7 Hz, 1H), 7.09-6.99 (m, 2H), 5.97 (s, 1H), 4.19-4.13 (m, 2H), 4.09 (t, J=6.4 Hz, 2H), 3.95-3.86 (m, 2H), 2.95-2.87 (m, 2H), 2.53 (s, 3H), 2.30 (s, 3H), 2.22-1.99 (m, 3H), 1.93-1.76 (m, 4H), 1.51-1.22 (m, 6H). C. {2-(5-Fluoro-4-methyl-1H-benzoimidazol-2-yl)-5-[3-(1-methyl-piperidin-4-yl)-propoxy]-phenyl}-methanol. 2-{2-[1,3]Dioxan-2-yl-4-[3-(1-methyl-piperidin-4-yl)-propoxy]-phenyl}-5-fluoro-4-methyl-1H-benzoimidazole (401 mg) and p-toluenesulfonic acid (1.0 g) were stirred in a solution of acetone (10 mL) and water (1.0 mL) at reflux for 16 h. The solution was poured into satd. aq. NaHCO3 and extracted with ethyl acetate. The combined extracts were dried (Na2SO4), filtered, and concentrated. A portion of the crude residue (43.3 mg) was dissolved in ethanol (2.0 mL) and sodium borohydride (300 mg) was added. The mixture was stirred for 1.0 h and then poured into satd. aq. NaHCO3. The aqueous mixture was extracted with ethyl acetate and the combined extracts were dried (Na2SO4), filtered, and concentrated. The residue was purified by Method 2 to afford 6.0 mg of the title compound. MS (electrospray): mass calculated for C24H30FN3O2, 411.23; m/z found, 412.4 [M+H]+. 1H NMR (400 MHz, CD3OD): 7.82 (d, J=8.6 Hz, 1H), 7.43-7.33 (m, 1H), 7.14-7.10 (m, 1H), 7.06-6.97 (m, 2H), 4.72 (s, 2H), 4.09 (t, J=6.3 Hz, 2H), 2.94-2.86 (m, 2H), 2.52 (s, 3H), 2.29 (s, 3H), 2.11-1.99 (m, 2H), 1.91-1.74 (m, 4H), 1.52-1.42 (m, 2H), 1.41-1.21 (m, 4H).

reactant | 2-{2-[1,3]Dioxan-2-yl-4-[3-(1-methyl-piperidin-4-yl)-propoxy]-phenyl}-5-fluoro-4-methyl-1H-benzoimidazole | O1C(OCCC1)C1=C(C=CC(=C1)OCCCC1CCN(CC1)C)C1=NC2=C(N1)C=CC(=C2C)F | C27H34FN3O3
reactant | 4-[3-(4-bromo-3-[1,3]dioxan-2-yl-phenoxy)-propyl]-1-methyl-piperidine | 12.4 mmol, 4.82 g, 1.0 equiv | BrC1=C(C=C(OCCCC2CCN(CC2)C)C=C1)C1OCCCO1 | C19H28BrNO3
reactant | n-butyllithium | 2.5 M | C(CCC)[Li]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | 2-[1,3]dioxan-2-yl-4-[3-(1-methyl-piperidin-4-yl)-propoxy]-benzaldehyde | 1.41 mmol, 491 mg, 1.0 equiv | O1C(OCCC1)C1=C(C=O)C=CC(=C1)OCCCC1CCN(CC1)C | C20H29NO4
reactant | 4-fluoro-3-methyl-benzene-1,2-diamine | 1.41 mmol, 198 mg, 1.0 equiv | FC=1C(=C(C(=CC1)N)N)C | C7H9FN2
solvent | THF | 62 mL | C1CCOC1 | C4H8O
solvent | DMF | 7.0 mL | CN(C)C=O | C3H7NO
solvent | DMF | 124 mmol, 9.6 mL, 10.0 equiv | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | {2-(5-Fluoro-4-methyl-1H-benzoimidazol-2-yl)-5-[3-(1-methyl-piperidin-4-yl)-propoxy]-phenyl}-methanol | 509 mg, 77% | FC1=C(C2=C(NC(=N2)C2=C(C=C(C=C2)OCCCC2CCN(CC2)C)CO)C=C1)C | C24H30FN3O2
